US07745641B2
In a similar manner to Step 2 of Example 6, 4-methanesulfonyloxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-4-formylindol-2-yl]isoindolinone (0.252 g, 0.503 mmol) was dissolved in acetonitrile (15.0 mL), and the solution was treated with 2-methoxyethylamine (0.875 mL, 10.1 mmol), acetic acid (0.576 mL, 10.1 mmol) and sodium triacetoxyborohydride (0.533 g, 2.52 mmol), followed by purification of the residue by flash column chromatography (chloroform/methanol=3/1) to obtain 4-methanesulfonyloxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-4-(2-methoxyethylaminomethyl)indol-2-yl]isoindolinone (0.0968 g, yield 34%).

reactant | 4-methanesulfonyloxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-4-formylindol-2-yl]isoindolinone | 0.503 mmol, 0.252 g | CS(=O)(=O)OC1=C2CNC(C2=C(C=C1OC)C=1N(C2=CC=CC(=C2C1)C=O)C(=O)OC(C)(C)C)=O | C24H24N2O8S
reactant | 2-methoxyethylamine | 10.1 mmol, 0.875 mL | COCCN | C3H9NO
reactant | acetic acid | 10.1 mmol, 0.576 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 2.52 mmol, 0.533 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetonitrile | 15.0 mL | C(C)#N | C2H3N
product | 4-methanesulfonyloxy-5-methoxy-7-[1-(tert-butoxycarbonyl)-4-(2-methoxyethylaminomethyl)indol-2-yl]isoindolinone | 0.0968 g, yield 34% | CS(=O)(=O)OC1=C2CNC(C2=C(C=C1OC)C=1N(C2=CC=CC(=C2C1)CNCCOC)C(=O)OC(C)(C)C)=O | C27H33N3O8S
